US20010014679A1
4-Amino-5-(4-benzyloxyphenoxy)quinazoline (1.5 g, 4.4 mmol) was heated at 50-60° C. under 5 atmospheres of hydrogen gas in the presence of 0.5 g of 10% palladium on carbon in 80 mL of N,N-dimethylacetamide. After 4 hours the reaction mixture was filtered through a fritted glass funnel containing silica gel, concentrated, dissolved in 80 mL of ethanol/water 4/1 (v/v) and allowed to crystallize at 4° C. The precipitate was collected by vacuum filtration, washed with ethanol and dried at 150° C. under vacuum to give 0.3 g (27.3% yield) of 4-amino-5-(4-hydroxyphenyl)quinazoline, m.p. 300-302° C (dec).

reactant | 4-Amino-5-(4-benzyloxyphenoxy)quinazoline | 4.4 mmol, 1.5 g | NC1=NC=NC2=CC=CC(=C12)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H17N3O2
reactant | hydrogen | [H][H] | H2
reactant | N,N-dimethylacetamide | 80 mL | CN(C(C)=O)C | C4H9NO
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-amino-5-(4-hydroxyphenyl)quinazoline | 0.3 g, 27.3% yield | NC1=NC=NC2=CC=CC(=C12)C1=CC=C(C=C1)O | C14H11N3O
